US04629683
N-Bromomethylsaccharin (13.8 g), 1-phenyl-3-pyrazolidinone (11.9 g) and triethylamine (5.5 g) were dissolved in tetrahydrofuran (200 ml), and stirred in a stream of nitrogen at room temperature for 2 hours. The reaction mixture was added to water (200 ml), and extracted with 100 ml each of ethyl acetate two times. After drying the extract over anhydrous Glauber's salt, the solvent was distilled away. The thus obtained crude product was recrystallized from ethyl acetate to yield 16 g of N-(1-phenyl-3-pyrazolidinone-2-ylmethyl)saccharin (Compound (I)-(18)). Melting Point: 209°-213° C.

reactant | N-Bromomethylsaccharin | 13.8 g | BrCN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H6BrNO3S
reactant | 1-phenyl-3-pyrazolidinone | 11.9 g | C1(=CC=CC=C1)N1NC(CC1)=O | C9H10N2O
reactant | triethylamine | 5.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(1-phenyl-3-pyrazolidinone-2-ylmethyl)saccharin | 16 g | C1(=CC=CC=C1)N1N(C(CC1)=O)CN1S(=O)(=O)C2=CC=CC=C2C1=O | C17H15N3O4S
